US08426585B2
Step 1) N-(5-(7-(benzyloxy)quinolin-4-yloxy)pyridin-2-yl)-N-phenylcyclopropane-1,1-dicarboxamide
The title compound was prepared according to the procedure described in Example 21 of step 5 by using 1-(phenylcarbamoyl)cyclopropanecarboxylic acid (1.14 g, 5.6 mmol), HATU (2.11 g, 5.6 mmol), 5-(7-(benzyloxy)quinolin-4-yloxy)pyridin-2-amine (960 mg, 2.8 mmol) and DBU (868 mg, 7.0 mmol) in dry DCM (50 mL). The title compound was obtained as a white solid (1.22 g, 82%).

reactant | 1-(phenylcarbamoyl)cyclopropanecarboxylic acid | 5.6 mmol, 1.14 g | C1(=CC=CC=C1)NC(=O)C1(CC1)C(=O)O | C11H11NO3
reactant | HATU | 5.6 mmol, 2.11 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 5-(7-(benzyloxy)quinolin-4-yloxy)pyridin-2-amine | 2.8 mmol, 960 mg | C(C1=CC=CC=C1)OC1=CC=C2C(=CC=NC2=C1)OC=1C=CC(=NC1)N | C21H17N3O2
reactant | DBU | 7.0 mmol, 868 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | N-(5-(7-(benzyloxy)quinolin-4-yloxy)pyridin-2-yl)-N-phenylcyclopropane-1,1-dicarboxamide | C(C1=CC=CC=C1)OC1=CC=C2C(=CC=NC2=C1)OC=1C=CC(=NC1)N(C(=O)C1(CC1)C(=O)N)C1=CC=CC=C1 | C32H26N4O4
